US08207202B2
Benzyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate
Benzyl 4-oxopiperidine-1-carboxylate (147 g, 630 mmol) was dissolved in tetrahydrofuran (500 ml), under an atmosphere of nitrogen. This solution was added, dropwise over 2 hours, to a stirred solution of lithium hexamethyldisilazide (20% solution in tetrahydrofuran, 556 ml, 662 mmol) under nitrogen maintaining the reaction temperature below −70° C. The reaction mixture was allowed to stir at −75° C. for a further 1 hour before dropwise addition over 2 hours, of a solution of N-phenyl-bis(trifluoromethanesulfonimide) (236 g, 661 mmol) in tetrahydrofuran (950 ml) again maintaining the reaction temperature below −70° C. The reaction was then allowed to warm to room temperature overnight followed by portionwise addition of 2M aqueous sodium hydroxide solution (800 ml). The layers were separated and the organic layer was washed with further 2M aqueous sodium hydroxide solution (600 ml), before evaporation to dryness. The resulting solid was dissolved in diethyl ether and washed with water. The organic layer was then filtered through celite, dried over sodium sulphate and evaporated to dryness to afford the title compound (140 g, 61%), which was taken through to the next stage without further purification.

reactant | Benzyl 4-oxopiperidine-1-carboxylate | 630 mmol, 147 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | lithium hexamethyldisilazide | 662 mmol, 556 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 661 mmol, 236 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | sodium hydroxide | 2M, 800 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 950 ml | O1CCCC1 | C4H8O
product | Benzyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate | 140 g, 61% | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C14H14F3NO5S
